US04180662
129 g. of sodium 5-chloro-2-sulfothiophene-3-carboxylate are dissolved hot in a solution of 84.7 g. of caustic potash in 430 ml. of water, acidified with 130 ml. of concentrated HCl to a pH of 1, and slowly cooled to 5°. The precipitate that separates out is suction filtered without rewashing. The filtrate is concentrated by evaporation to 220 ml. and again cooled to 5°. The precipitate that separates out is suction filtered, combined with the previously obtained product, and dried in vacuo at 110°. Potassium 5-chloro-2-sulfothiophene-3-carboxylate is obtained.

reactant | sodium 5-chloro-2-sulfothiophene-3-carboxylate | ClC1=CC(=C(S1)S(=O)(=O)O)C(=O)[O-].[Na+]
reactant | caustic potash | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | Potassium 5-chloro-2-sulfothiophene-3-carboxylate | ClC1=CC(=C(S1)S(=O)(=O)O)C(=O)[O-].[K+] | InChI=1S/C5H3ClO5S2.K/c6-3-1-2(4(7)8)5(12-3)13(9,10)11;/h1H,(H,7,8)(H,9,10,11);/q;+1/p-1
